US07968538B2
6-Chloro-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)chroman-4-amine hydrochloride
A solution of 6-chloro-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)chroman-4-amine (26.0 mg, 0.06 mmol) in anhydrous dichloromethane (5 mL) was cooled to 0° C. and HCl 37 μL of a 2M solution in diethyl ether, (0.07 mmol) were added. The mixture was allowed to stir for 30 min. After removal of solvent by rotary evaporation the desired product was collected (27.0 mg, 99%). 1H NMR (400 MHz, CD3OD): δ 7.62 (d, 1H), 7.27 (d, 1H), 7.17 (dd, 1H), 6.83 (d, 1H), 6.51 (s, 1H), 6.48 (s, 1H), 4.89 (m, 1H), 4.25 (m, 2H), 3.59 (m, 4H), 3.34 (m, 4H), 2.98 (s, 3H), 2.16 (m, 2H); MS (ESI) m/z: 422.0 (M++1).

reactant | 6-chloro-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)chroman-4-amine | 0.06 mmol, 26.0 mg | ClC=1C=C2C(CCOC2=CC1)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C20H24ClN3O3S
reactant | HCl | 37 μL | Cl | ClH
reactant | diethyl ether | 0.07 mmol | C(C)OCC | C4H10O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 6-Chloro-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)chroman-4-amine hydrochloride | Cl.ClC=1C=C2C(CCOC2=CC1)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | InChI=1S/C20H24ClN3O3S.ClH/c1-28(25,26)20-5-3-15(24-9-7-22-8-10-24)13-18(20)23-17-6-11-27-19-4-2-14(21)12-16(17)19;/h2-5,12-13,17,22-23H,6-11H2,1H3;1H
